US07279486B2
Step 1. Methyl 5-hydroxy-2-methylbenzoate
To a stirred solution of 5-hydroxy-2-methylbenzoic acid (WO 9619437, 1.11 g, 6.69 mmol), in dichloromethane (6 mL) and methanol (6 mL) was added a 2.0 M solution of (trimethylsilyl)diazomethane in diethyl ether (7.31 mL, 14.7 mmol) at 0° C. The mixture was stirred at room temperature for 3 days, and the mixture was diluted with dichloromethane (200 mL). The solution was washed with water and brine, dried over magnesium sulfate, and evapolated. The residue was purified by column chromatography on silica gel (40 g) eluting with hexane/ethyl acetate (10/1) to afford 545 mg (49%) of the title compound:

reactant | 5-hydroxy-2-methylbenzoic acid | 6.69 mmol, 1.11 g | OC=1C=CC(=C(C(=O)O)C1)C | C8H8O3
reactant | methanol | 6 mL | CO | CH4O
reactant | (trimethylsilyl)diazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | diethyl ether | 14.7 mmol, 7.31 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Methyl 5-hydroxy-2-methylbenzoate | 545 mg, 49% | OC=1C=CC(=C(C(=O)OC)C1)C | C9H10O3
